US07288548B2
To ((3R,4S)-4-phenyl-pyrrolidin-3-yl)-methanol (1.25 g, 7.05 mmol) in THF (35 mL) was added triethylamine (0.97 mL, 7.05 mmol) at room temperature. The reaction mixture was cooled to 0° C. and di-tert-butyl dicarbonate (1.53 g, 7.05 mmol) dissolved in THF (10 mL) was added. The reaction mixture was stirred overnight at room temperature. Then the reaction mixture was concentrated to give a colorless oil, which was purified by flash silica gel chromatography eluting with ethyl acetate:hexanes (2:3) to give 1.31 g (70%) of (3R,4S)-3-hydroxymethyl-4-phenyl-pyrrolidine-1-carboxylic acid tert-butyl ester.

reactant | ((3R,4S)-4-phenyl-pyrrolidin-3-yl)-methanol | 7.05 mmol, 1.25 g | C1(=CC=CC=C1)[C@@H]1[C@H](CNC1)CO | C11H15NO
reactant | triethylamine | 7.05 mmol, 0.97 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 7.05 mmol, 1.53 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (3R,4S)-3-hydroxymethyl-4-phenyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.31 g, 70% | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](C1)C1=CC=CC=C1)CO | C16H23NO3
